* Thu Oct 08 20:35:18 2015, Generated by: 010328058, Server: None, Windows, INSTALLED_SOFTWARE_VERSION: 2015.07 Build 6, Engine: 2015.07rc1, GUI: 2015.07rc1
* Transfer Net sheet1 , Driver designator1
* Mon Jul 20 2015 2015.07rc1 , Copyright (c) Signal Integrity Software, Inc.
*
* Interface File C:\Myproject\chapter9\interfaces\3interfaceexample\3interfaceexample.edk
* Log File     generate_spice.log
*
** #PARAM TRANSFER_NET sheet1
** #PARAM SIMULATION_DEPTH SL_Pad/Pad
** #PARAM DUTY_CYCLE,
** #PARAM UNCORRELATED_ETCH,
** #PARAM SIMULATOR IsSpice4
** #PARAM DRIVER designator1
** #PARAM AC_NOISE +/-0.00V
** #PARAM AC_NOISE_SOURCE tnet
** #PARAM AGGRESSORS 0
** #PARAM DRIVER_MODEL IBIS
** #PARAM RECEIVER_MODEL IBIS
** #PARAM SUB_CIRCUIT sheet1.tsc
** #PARAM CORNER TTTE
** #PARAM UI 3n
*
.probe/csdf
.option temp= 25.
Vv_stimulus v_stimulus 0 pwlb( 0.000n 0v
+ 3.000n 0v 3.0460n .46 3.0480n .48 3.0490n .49 3.0510n .51 3.0520n .52 3.0530n .54 3.100n 1v
+ 9.000n 1v 9.0460n .54 9.0480n .52 9.0490n .51 9.0510n .49 9.0520n .48 9.0530n .46 9.100n 0v
+ 15.000n 0v 15.0460n .46 15.0480n .48 15.0490n .49 15.0510n .51 15.0520n .52 15.0530n .54 15.100n 1v
+ 18.000n 1v 18.0460n .54 18.0480n .52 18.0490n .51 18.0510n .49 18.0520n .48 18.0530n .46 18.100n 0v
+ 21.000n 0v 21.0460n .46 21.0480n .48 21.0490n .49 21.0510n .51 21.0520n .52 21.0530n .54 21.100n 1v
+ 24.000n 1v 24.0460n .54 24.0480n .52 24.0490n .51 24.0510n .49 24.0520n .48 24.0530n .46 24.100n 0v
+ 27.000n 0v 27.0460n .46 27.0480n .48 27.0490n .49 27.0510n .51 27.0520n .52 27.0530n .54 27.100n 1v
+ 30.000n 1v 30.0460n .54 30.0480n .52 30.0490n .51 30.0510n .49 30.0520n .48 30.0530n .46 30.100n 0v 33.000n 0v )
** #PARAM PATTERN default_data
.tran 20pS 37nS
Vone one 0 DC 1.
Vzero zero 0 DC 0.
Rone one 0 1.
Rzero zero 0 1.e-5
.options Minstep=20p
VTimeStep TimeStep 0 DC 1.
TTimeStep TimeStep 0 0 0 Zo=50. TD=40p
* options
* options from: C:\SiSoft\2015.07\etc\defaults\default_isspice4_options.inc
.options Itl1=500
.options Itl4=500
.options ICSTEP=40
.options autotol=2
.options ACCT
* options from: C:\Myproject\chapter9\managed_data\project_defaults\isspice4_options.inc
*File C:\Myproject\chapter9\managed_data\project_defaults\isspice4_options.inc
*
*
Vvssq_designator1 vssq_designator1 0 DC 0.
Vvddq_designator1 vddq_designator1 0 DC 3.3
Rdesignator1 designator1_pin designator1_pkg .04
Ldesignator1 designator1_pkg designator1_pad 1.65n
Cdesignator1 designator1_pin 0 240f
* Buffer designator1 typ driver, 55202_3.ibs ICS552-02 3V6XX 5 Q2 3.3 0. port1
*
Xdesignator1 vddq_designator1 vssq_designator1 designator1_pad v_stimulus
+ vddq_designator1 vssq_designator1
+ 55202_3_3V6XX_TT
*
*
*
Vvssq_designator2 vssq_designator2 0 DC 0.
Vvddq_designator2 vddq_designator2 0 DC 3.3
Rdesignator2 designator2_pin designator2_pkg .18
Ldesignator2 designator2_pkg designator2_pad 5.19n
Cdesignator2 designator2_pin 0 1.17p
* Buffer designator2 typ receiver, Y15w.ibs MT48LC32M4A2TG clkbuff 38 CLK 3.3 0. port2
*
Rdesignator2_z designator2_z 0 1Meg
Xdesignator2 vddq_designator2 vssq_designator2 designator2_pad designator2_z
+ Y15w_clkbuff_TT
*
*#save v(v_stimulus)
*#save v(designator1_pad)
*#save v(designator2_pad)
*#save v(designator1_pin)
*#save v(designator2_pin)
*#save v(designator2_z)
.SUBCKT 55202_3_3V6XX_TT PU_REF PD_REF PAD A PC_REF GC_REF
*
*
* C_comp
CCOMP PAD GC_REF +5.00000E-12 IC=0
*
RA A 0 1Meg
VINIT Vini 0    dc 200n
RETIR ETR  Vini 1G
CETR  ETR  0    1n
BETR  0    ETR  I= Time < 40p ? 0. : 1n
RETIF ETF  Vini 1G
CETF  ETF  0    1n
BETF  0    ETF  I= Time < 40p ? 0. : 1n
RETR ETR 0 R= V(A) > .5 ? 1G  : .02
RETF ETF 0 R= V(A) > .5 ? .02 : 1G
*
* Pull Down Structure;
AKT_PD_R ETR KT_PD_R KT_PD_R_T
AKT_PD_F ETF KT_PD_F KT_PD_F_T
.model KT_PD_R_T pwl2(
+ xy_array = [ 0. .973 10p .973 20p .99 30p 1.01 40p 1.033 50p 1.059 60p 1.088 70p 1.12 80p 1.156 90p 1.194 100p 1.237 110p 1.282
+ 120p 1.334 130p 1.385 140p 1.443 150p 1.502 160p 1.564 170p 1.631 180p 1.693 190p 1.766 200p 1.825 210p 1.892
+ 220p 1.948 230p 1.999 240p 2.044 250p 2.071 260p 2.093 280p 2.081 290p 2.056 300p 2.008 310p 1.955 320p 1.882
+ 330p 1.804 340p 1.716 350p 1.622 360p 1.527 370p 1.423 380p 1.325 390p 1.222 400p 1.125 410p 1.028 420p .935
+ 430p .844 440p .758 450p .675 460p .594 470p .519 480p .444 490p .375 500p .307 510p .243 520p .181
+ 530p .121 540p .065 550p .01 560p -.043 570p -.094 580p -.143 590p -.191 600p 0. 100.6n 0. ]  )
.model KT_PD_F_T pwl2(
+ xy_array = [ 0. .32 10p .973 20p .377 30p .435 40p .497 50p .56 60p .626 70p .695 80p .768 90p .844 100p .924 110p 1.006
+ 120p 1.094 130p 1.185 140p 1.281 150p 1.38 160p 1.484 170p 1.591 180p 1.701 190p 1.813 200p 1.925 210p 2.036
+ 220p 2.143 230p 2.241 240p 2.332 250p 2.408 260p 2.471 270p 2.51 280p 2.537 290p 2.529 300p 2.512 310p 2.464
+ 320p 2.409 330p 2.331 340p 2.249 350p 2.155 360p 2.062 370p 1.965 380p 1.872 390p 1.781 400p 1.694 410p 1.613
+ 420p 1.537 430p 1.468 440p 1.403 450p 1.346 460p 1.292 470p 1.244 480p 1.202 490p 1.163 500p 1.131 510p 1.099
+ 520p 1.078 530p 1.053 540p 1.016 550p 1. 580p 1. 590p 1. 600p 1. 100.6n 1. ] )
*
BPD PAD PD_REF I=
+ V(A) > .5 ? V(PD_Current)*V(KT_PD_R) : V(PD_Current)*V(KT_PD_F)
XPD PD_Current 0 PAD PD_REF PULL_DOWN
*
* Pullup Structure;
AKT_PU_R ETR KT_PU_R KT_PU_R_T
AKT_PU_F ETF KT_PU_F KT_PU_F_T
.model KT_PU_R_T pwl2(
+ xy_array = [ 0. 0. 10p 0. 20p .314 30p .368 40p .425 50p .484 60p .545 70p .61 80p .676 90p .746 100p .82 110p .897
+ 120p .98 130p 1.064 140p 1.156 150p 1.248 160p 1.347 170p 1.45 180p 1.552 190p 1.665 200p 1.767 210p 1.879
+ 220p 1.982 230p 2.083 240p 2.179 250p 2.258 260p 2.334 270p 2.388 280p 2.428 290p 2.456 300p 2.459 310p 2.455
+ 320p 2.428 330p 2.393 340p 2.346 350p 2.289 360p 2.229 370p 2.158 380p 2.089 390p 2.014 400p 1.943 410p 1.87
+ 420p 1.8 430p 1.731 440p 1.666 450p 1.603 460p 1.542 470p 1.486 480p 1.43 490p 1.38 500p 1.329 510p 1.285
+ 520p 1.24 530p 1.199 540p 1.161 550p 1.124 560p 1.091 570p 1.057 580p 1.027 590p .998 600p 1. 100.6n 1. ] )
.model KT_PU_F_T pwl2(
+ xy_array = [ 0. 1. 20p 1.099 30p 1.135 40p 1.175 50p 1.216 60p 1.261 70p 1.307 80p 1.359 90p 1.411 100p 1.47 110p 1.528
+ 120p 1.594 130p 1.66 140p 1.732 150p 1.804 160p 1.882 170p 1.959 180p 2.039 190p 2.117 200p 2.193 210p 2.265
+ 220p 2.329 230p 2.381 240p 2.421 250p 2.442 260p 2.448 270p 2.425 280p 2.39 290p 2.316 300p 2.235 310p 2.123
+ 320p 2.006 330p 1.868 340p 1.73 350p 1.582 360p 1.439 370p 1.296 380p 1.158 390p 1.026 400p .899 410p .781
+ 420p .668 430p .564 440p .463 450p .372 460p .283 470p .201 480p .122 490p .052 500p -.028 510p -.079
+ 520p -.163 530p -.209 540p -.08 550p 0. 580p 0. 590p 0. 600p 0. 100.6n 0. ] )
*
BPU PAD PU_REF I=
+ V(A) > .5 ? V(PU_Current)*V(KT_PU_R) : V(PU_Current)*V(KT_PU_F)
XPU PU_Current 0 PU_REF PAD PULL_UP
*
* Pull Down IV;
.SUBCKT PULL_DOWN PD_Current    REF   PAD   PD_REF
* Connections     Out+ Out In+ In
APullDown %vd(PAD,PD_REF) %vd(PD_Current,REF) transfer
.model transfer pwl2(
+ xy_array = [
+ -4.30000E+00 -3.00000E+00
+ -3.30000E+00 -3.00000E+00
+ -1.20000E+00 -2.00050E-01
+ -1.10000E+00 -1.69390E-01
+ -1.00000E+00 -1.35630E-01
+ -9.00000E-01 -1.08350E-01
+ -8.00000E-01 -8.89800E-02
+ -7.00000E-01 -7.62400E-02
+ -6.00000E-01 -6.55200E-02
+ -5.00000E-01 -5.49100E-02
+ -4.00000E-01 -4.42000E-02
+ -3.00000E-01 -3.33800E-02
+ -2.00000E-01 -2.24900E-02
+ -1.00000E-01 -1.16200E-02
+ +0.00000E+00 -8.80000E-04
+ +1.00000E-01 +9.52800E-03
+ +2.00000E-01 +1.97020E-02
+ +3.00000E-01 +2.94160E-02
+ +4.00000E-01 +3.85720E-02
+ +5.00000E-01 +4.70630E-02
+ +6.00000E-01 +5.48110E-02
+ +7.00000E-01 +6.17870E-02
+ +8.00000E-01 +6.79390E-02
+ +9.00000E-01 +7.32750E-02
+ +1.00000E+00 +7.78070E-02
+ +1.10000E+00 +8.15750E-02
+ +1.20000E+00 +8.46460E-02
+ +1.30000E+00 +8.70920E-02
+ +1.40000E+00 +8.89910E-02
+ +1.50000E+00 +9.04550E-02
+ +1.60000E+00 +9.15450E-02
+ +1.70000E+00 +9.23630E-02
+ +1.80000E+00 +9.29720E-02
+ +1.90000E+00 +9.34370E-02
+ +2.00000E+00 +9.37890E-02
+ +2.10000E+00 +9.40560E-02
+ +2.20000E+00 +9.42670E-02
+ +2.30000E+00 +9.44350E-02
+ +2.40000E+00 +9.45650E-02
+ +2.50000E+00 +9.46670E-02
+ +2.60000E+00 +9.47390E-02
+ +2.70000E+00 +9.48070E-02
+ +2.80000E+00 +9.48440E-02
+ +2.90000E+00 +9.48700E-02
+ +3.00000E+00 +9.48800E-02
+ +3.10000E+00 +9.48860E-02
+ +3.20000E+00 +9.48860E-02
+ +3.30000E+00 +9.48860E-02
+ +3.40000E+00 +9.48860E-02
+ +3.50000E+00 +9.48860E-02
+ +3.60000E+00 +9.48860E-02
+ +3.70000E+00 +9.48860E-02
+ +3.80000E+00 +9.48860E-02
+ +3.90000E+00 +9.48860E-02
+ +4.00000E+00 +9.72210E-02
+ +4.10000E+00 +1.08422E-01
+ +4.20000E+00 +1.23336E-01
+ +4.30000E+00 +1.43124E-01
+ +4.40000E+00 +1.70363E-01
+ +4.50000E+00 +2.00297E-01
+ +6.60000E+00 +3.00000E+00
+ +7.60000E+00 +3.00000E+00
+ ] )
.ENDS PULL_DOWN
*
* Pull Up IV;
.SUBCKT PULL_UP PU_Current REF PU_REF PAD
* Connections   Out+ Out In+ In
APullUp %vd(PU_REF,PAD) %vd(PU_Current,REF) transfer
.model transfer pwl2(
+ xy_array = [
+ -4.30000E+00 +3.00000E+00
+ -3.30000E+00 +3.00000E+00
+ -1.30000E+00 +2.00281E-01
+ -1.20000E+00 +1.65476E-01
+ -1.10000E+00 +1.35640E-01
+ -1.00000E+00 +1.12409E-01
+ -9.00000E-01 +9.33190E-02
+ -8.00000E-01 +7.50260E-02
+ -7.00000E-01 +6.19870E-02
+ -6.00000E-01 +5.24640E-02
+ -5.00000E-01 +4.34660E-02
+ -4.00000E-01 +3.46440E-02
+ -3.00000E-01 +2.60210E-02
+ -2.00000E-01 +1.75890E-02
+ -1.00000E-01 +9.37300E-03
+ +0.00000E+00 +1.39800E-03
+ +1.00000E-01 -6.32000E-03
+ +2.00000E-01 -1.37600E-02
+ +3.00000E-01 -2.08800E-02
+ +4.00000E-01 -2.77000E-02
+ +5.00000E-01 -3.41600E-02
+ +6.00000E-01 -4.02600E-02
+ +7.00000E-01 -4.60000E-02
+ +8.00000E-01 -5.13600E-02
+ +9.00000E-01 -5.63500E-02
+ +1.00000E+00 -6.09500E-02
+ +1.10000E+00 -6.51800E-02
+ +1.20000E+00 -6.90300E-02
+ +1.30000E+00 -7.25400E-02
+ +1.40000E+00 -7.57000E-02
+ +1.50000E+00 -7.85300E-02
+ +1.60000E+00 -8.10600E-02
+ +1.70000E+00 -8.33100E-02
+ +1.80000E+00 -8.53000E-02
+ +1.90000E+00 -8.70700E-02
+ +2.00000E+00 -8.86500E-02
+ +2.10000E+00 -9.00400E-02
+ +2.20000E+00 -9.13000E-02
+ +2.30000E+00 -9.24300E-02
+ +2.40000E+00 -9.34700E-02
+ +2.50000E+00 -9.44200E-02
+ +2.60000E+00 -9.52900E-02
+ +2.70000E+00 -9.61000E-02
+ +2.80000E+00 -9.68500E-02
+ +2.90000E+00 -9.75500E-02
+ +3.00000E+00 -9.82200E-02
+ +3.10000E+00 -9.88500E-02
+ +3.20000E+00 -9.94400E-02
+ +3.30000E+00 -1.00000E-01
+ +3.40000E+00 -1.00540E-01
+ +3.50000E+00 -1.01050E-01
+ +3.60000E+00 -1.01550E-01
+ +3.70000E+00 -1.02010E-01
+ +3.80000E+00 -1.02530E-01
+ +3.90000E+00 -1.03770E-01
+ +4.00000E+00 -1.07710E-01
+ +4.10000E+00 -1.20480E-01
+ +4.20000E+00 -1.45120E-01
+ +4.30000E+00 -1.77340E-01
+ +4.40000E+00 -2.00060E-01
+ +6.60000E+00 -3.00000E+00
+ +7.60000E+00 -3.00000E+00
+ ] )
.ENDS PULL_UP
*
.ENDS 55202_3_3V6XX_TT
.SUBCKT Y15w_clkbuff_TT PC_REF GC_REF PAD Z
*
*
* C_comp
CCOMP PAD GC_REF +2.01000E-12 IC=0
*
* Input Receiver
BZ Z 0 V= V(PAD) > 1.400 ? 1.0 : 0.0
RZZ Z  0 1MEG
*
* Ground Clamp Structure;
XGC GC_Current 0 PAD GC_REF GND_CLAMP
BGC PAD GC_REF I= V(GC_Current)
*
* Power Clamp Structure;
XPC PC_Current 0 PC_REF PAD POWER_CLAMP
BPC PAD PC_REF I= V(PC_Current)
*
* Ground Clamp IV;
.SUBCKT GND_CLAMP PAD_OUT GC_OUT PAD_IN GC_IN
* Connections     Out+ Out In+ In
AGndClamp %vd(PAD_IN,GC_IN) %vd(PAD_OUT,GC_OUT) transfer
.model transfer pwl2(
+ xy_array = [
+ -4.30000E+00 -8.08796E-01
+ -3.30000E+00 -8.08796E-01
+ -3.29000E+00 -8.03547E-01
+ -3.24000E+00 -7.79044E-01
+ -3.08000E+00 -7.00774E-01
+ -2.96000E+00 -6.42219E-01
+ -2.94000E+00 -6.32494E-01
+ -2.76000E+00 -5.44976E-01
+ -2.74000E+00 -5.35307E-01
+ -2.60000E+00 -4.67619E-01
+ -2.58000E+00 -4.57949E-01
+ -2.56000E+00 -4.48343E-01
+ -2.46000E+00 -4.00313E-01
+ -2.44000E+00 -3.90706E-01
+ -2.40000E+00 -3.71652E-01
+ -2.33000E+00 -3.38307E-01
+ -2.30000E+00 -3.24016E-01
+ -2.26000E+00 -3.05113E-01
+ -2.24000E+00 -2.95661E-01
+ -2.22000E+00 -2.86268E-01
+ -2.18000E+00 -2.67482E-01
+ -2.17000E+00 -2.62819E-01
+ -2.14000E+00 -2.48828E-01
+ -2.13000E+00 -2.44164E-01
+ -2.12000E+00 -2.39535E-01
+ -2.08000E+00 -2.21021E-01
+ -2.04000E+00 -2.02749E-01
+ -2.03000E+00 -1.98180E-01
+ -2.00000E+00 -1.84476E-01
+ -1.98000E+00 -1.75483E-01
+ -1.96000E+00 -1.66490E-01
+ -1.95000E+00 -1.62056E-01
+ -1.94000E+00 -1.57622E-01
+ -1.92000E+00 -1.48754E-01
+ -1.90000E+00 -1.40025E-01
+ -1.89000E+00 -1.35661E-01
+ -1.86000E+00 -1.22767E-01
+ -1.84000E+00 -1.14356E-01
+ -1.83000E+00 -1.10150E-01
+ -1.82000E+00 -1.06046E-01
+ -1.81000E+00 -1.01942E-01
+ -1.80000E+00 -9.78382E-02
+ -1.79000E+00 -9.38486E-02
+ -1.78000E+00 -8.98591E-02
+ -1.77000E+00 -8.60150E-02
+ -1.76000E+00 -8.21709E-02
+ -1.75000E+00 -7.83269E-02
+ -1.74000E+00 -7.46497E-02
+ -1.73000E+00 -7.09726E-02
+ -1.72000E+00 -6.74661E-02
+ -1.71000E+00 -6.39595E-02
+ -1.70000E+00 -6.05711E-02
+ -1.69000E+00 -5.73862E-02
+ -1.68000E+00 -5.42012E-02
+ -1.67000E+00 -5.12878E-02
+ -1.66000E+00 -4.83744E-02
+ -1.64000E+00 -4.31860E-02
+ -1.62000E+00 -3.87208E-02
+ -1.61000E+00 -3.68273E-02
+ -1.60000E+00 -3.50253E-02
+ -1.58000E+00 -3.20819E-02
+ -1.57000E+00 -3.09418E-02
+ -1.56000E+00 -2.98018E-02
+ -1.55000E+00 -2.89247E-02
+ -1.54000E+00 -2.80477E-02
+ -1.53000E+00 -2.73607E-02
+ -1.52000E+00 -2.66736E-02
+ -1.50000E+00 -2.55547E-02
+ -1.48000E+00 -2.46501E-02
+ -1.46000E+00 -2.37454E-02
+ -1.44000E+00 -2.29738E-02
+ -1.43000E+00 -2.25880E-02
+ -1.42000E+00 -2.22021E-02
+ -1.40000E+00 -2.15084E-02
+ -1.38000E+00 -2.08147E-02
+ -1.36000E+00 -2.01210E-02
+ -1.30000E+00 -1.80399E-02
+ -1.22000E+00 -1.52651E-02
+ -1.20000E+00 -1.46149E-02
+ -1.16000E+00 -1.33145E-02
+ -1.06000E+00 -1.00635E-02
+ -1.03000E+00 -9.08816E-03
+ -9.60000E-01 -7.05439E-03
+ -9.40000E-01 -6.47331E-03
+ -8.80000E-01 -4.73007E-03
+ -8.40000E-01 -3.74707E-03
+ -8.20000E-01 -3.25558E-03
+ -8.00000E-01 -2.76408E-03
+ -7.60000E-01 -1.96355E-03
+ -7.50000E-01 -1.76341E-03
+ -7.40000E-01 -1.56328E-03
+ -6.90000E-01 -8.46419E-04
+ -6.80000E-01 -7.03046E-04
+ -6.40000E-01 -3.84559E-04
+ -6.20000E-01 -2.25316E-04
+ -5.80000E-01 -1.50210E-04
+ -5.40000E-01 -7.51053E-05
+ -5.00000E-01 +0.00000E+00
+ -4.70000E-01 +0.00000E+00
+ +0.00000E+00 +0.00000E+00
+ +6.60000E+00 +0.00000E+00
+ +7.60000E+00 +0.00000E+00
+ ] )
.ENDS GND_CLAMP
*
* Power Clamp IV;
.SUBCKT POWER_CLAMP PAD_OUT PC_OUT PC_IN PAD_IN
* Connections       Out+ Out In+ In
APwrClamp %vd(PC_IN,PAD_IN) %vd(PAD_OUT,PC_OUT) transfer
.model transfer pwl2(
+ xy_array = [
+ -4.30000E+00 +4.41731E-02
+ -3.30000E+00 +4.41731E-02
+ -3.29000E+00 +4.37102E-02
+ -3.16000E+00 +4.09516E-02
+ -3.00000E+00 +3.75564E-02
+ -2.88000E+00 +3.50241E-02
+ -2.76000E+00 +3.24919E-02
+ -2.72000E+00 +3.16478E-02
+ -2.68000E+00 +3.08079E-02
+ -2.64000E+00 +2.99680E-02
+ -2.60000E+00 +2.91281E-02
+ -2.56000E+00 +2.82915E-02
+ -2.52000E+00 +2.74549E-02
+ -2.48000E+00 +2.66182E-02
+ -2.44000E+00 +2.57858E-02
+ -2.40000E+00 +2.49533E-02
+ -2.36000E+00 +2.41209E-02
+ -2.28000E+00 +2.24666E-02
+ -2.24000E+00 +2.16395E-02
+ -2.20000E+00 +2.08179E-02
+ -2.16000E+00 +1.99963E-02
+ -2.12000E+00 +1.91806E-02
+ -2.07000E+00 +1.81609E-02
+ -2.04000E+00 +1.75544E-02
+ -1.99000E+00 +1.65435E-02
+ -1.98000E+00 +1.63433E-02
+ -1.96000E+00 +1.59430E-02
+ -1.92000E+00 +1.51423E-02
+ -1.91000E+00 +1.49421E-02
+ -1.88000E+00 +1.43483E-02
+ -1.87000E+00 +1.41504E-02
+ -1.84000E+00 +1.35566E-02
+ -1.82000E+00 +1.31651E-02
+ -1.80000E+00 +1.27736E-02
+ -1.79000E+00 +1.25778E-02
+ -1.76000E+00 +1.19966E-02
+ -1.74000E+00 +1.16091E-02
+ -1.72000E+00 +1.12267E-02
+ -1.68000E+00 +1.04620E-02
+ -1.67000E+00 +1.02738E-02
+ -1.63000E+00 +9.52122E-03
+ -1.62000E+00 +9.33612E-03
+ -1.58000E+00 +8.59572E-03
+ -1.57000E+00 +8.41382E-03
+ -1.54000E+00 +7.86811E-03
+ -1.52000E+00 +7.51069E-03
+ -1.50000E+00 +7.15327E-03
+ -1.48000E+00 +6.80303E-03
+ -1.46000E+00 +6.45278E-03
+ -1.44000E+00 +6.11061E-03
+ -1.42000E+00 +5.76844E-03
+ -1.40000E+00 +5.43538E-03
+ -1.38000E+00 +5.10231E-03
+ -1.36000E+00 +4.77957E-03
+ -1.34000E+00 +4.45683E-03
+ -1.32000E+00 +4.14582E-03
+ -1.30000E+00 +3.83481E-03
+ -1.29000E+00 +3.68600E-03
+ -1.26000E+00 +3.23960E-03
+ -1.24000E+00 +2.95566E-03
+ -1.23000E+00 +2.81369E-03
+ -1.22000E+00 +2.67780E-03
+ -1.20000E+00 +2.40601E-03
+ -1.19000E+00 +2.27632E-03
+ -1.18000E+00 +2.14664E-03
+ -1.16000E+00 +1.89750E-03
+ -1.14000E+00 +1.65991E-03
+ -1.13000E+00 +1.54719E-03
+ -1.12000E+00 +1.43448E-03
+ -1.10000E+00 +1.22271E-03
+ -1.08000E+00 +1.02546E-03
+ -1.06000E+00 +8.44394E-04
+ -1.05000E+00 +7.61405E-04
+ -1.04000E+00 +6.80452E-04
+ -1.02000E+00 +5.35217E-04
+ -1.00000E+00 +4.09258E-04
+ -9.90000E-01 +3.56319E-04
+ -9.80000E-01 +3.03380E-04
+ -9.60000E-01 +2.16958E-04
+ -9.50000E-01 +1.81982E-04
+ -9.40000E-01 +1.49202E-04
+ -9.30000E-01 +1.23491E-04
+ -9.20000E-01 +9.77796E-05
+ -9.00000E-01 +6.36075E-05
+ -8.90000E-01 +4.65215E-05
+ -8.80000E-01 +3.62726E-05
+ -8.70000E-01 +2.60236E-05
+ -8.60000E-01 +1.57747E-05
+ -8.40000E-01 +7.88734E-06
+ -8.20000E-01 +0.00000E+00
+ -8.00000E-01 +0.00000E+00
+ -7.80000E-01 +0.00000E+00
+ +6.60000E+00 +0.00000E+00
+ +7.60000E+00 +0.00000E+00
+ ] )
.ENDS POWER_CLAMP
*
.ENDS Y15w_clkbuff_TT
*File C:\Myproject\chapter9\interfaces\3interfaceexample\pre_subckts\sheet1.tsc
*
.SUBCKT sheet1_tsc port2 port1
YT1_1 port1 0 port2 0 N=1 RLGCmodel=YT1_1 L=1
.ENDS sheet1_tsc
Xsheet1_tsc DESIGNATOR2_PIN DESIGNATOR1_PIN sheet1_tsc
.model YT1_1 W MODELTYPE=RLGC N=1 Lo = 54n Co = 21.6p
.END
